US07148226B2
2-(4-{2-[2-Cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-propionitrile
The title compound was prepared analogously to example A(236) substituting 2-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-propionitrile from example A(241) in place of 1-(4-{2-[2-cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5 -a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclobutanecarbonitrile and 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde in place of 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde. 1H NMR (400 MHz, CDCl3) δ: 1.66–2.00 (m, 8H), 2.30 (s, 2H), 2.36 (s, 2H), 2.49–2.62 (m, 4H), 2.69–2.85 (m, 3H), 3.49–3.59 (m, 1H), 3.89–3.94 (m, 1H), 4.01–4.08 (m, 2H), 4.18 (s, 1H).

reactant | 2-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-propionitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C(C#N)C)F | C21H24FNO3
reactant | 1-(4-{2-[2-cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5 -a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclobutanecarbonitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCC1=CC(=C(C=C1)C1(CCC1)C#N)F | C31H34FN5O3
reactant | 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
product | 2-(4-{2-[2-Cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-propionitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=CC(=C2)C)=N1)=O)CCC1=CC(=C(C=C1)C(C#N)C)F | C28H30FN5O3
